US05280047
Product H: Ethyl 2Z-[(4-nitrophenyl)methylene]-3-oxobutanoate
Piperidine (0.5ml) was added to a solution of paranitrobenzaldehyde (7.5g, 0.05 moles) and ethyl acetoacetate (6.5g, 0.05 moles) and stirred at room temperature for 48 hrs. Ethyl ether (50ml) was added and stirring continued for 7 days. After removal of the ethyl ether by rotary evaporator the titled products were separated and purified by silica gel chromatography. The structure assignments were supported by NMR, infrared and uv spectra and elemental analysis (263.2).

reactant | Piperidine | 0.5ml | N1CCCCC1 | C5H11N
reactant | paranitrobenzaldehyde | 0.05 moles, 7.5g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ethyl acetoacetate | 0.05 moles, 6.5g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | Ethyl ether | 50ml | C(C)OCC | C4H10O
product | Ethyl 2Z-[(4-nitrophenyl)methylene]-3-oxobutanoate | [N+](=O)([O-])C1=CC=C(C=C1)\C=C(/C(=O)OCC)\C(C)=O | C13H13NO5
